US07402684B2
(R)-2-[4-(4-Fluoro-benzyloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 2 in Example 91 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.5 mmol) and 4-fluoro-benzyl bromide (150 mg, 0.75 mmol) to afford the title product (100 mg, 50% yield); LCMS, 100% APCI+, Calcd. 401.48. Found: 402.34 m/z (M+1). 1H NMR (400 MHz, CDCl3); δ 1.47 (s, 9H), 1.80-2.10 (m, 4H), 3.39 (br, 2H), 3.70-3.90 (m, 1H), 4.02-4.19 (m, 2H), 4.97 (s, 2H), 6.82-6.89 (m, 2H), 7.06 (t, J=8.0 Hz, 2H), 7.23-7.28 (m, 2H), 7.35-7.42 (m, 2H).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 150 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 4-fluoro-benzyl bromide | 0.75 mmol, 150 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | (R)-2-[4-(4-Fluoro-benzyloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 100 mg, 50% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C23H28FNO4
